US05068325
8m) 2-Amino-6-(3-(3,4,5-trimethoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine-hydrate
Prepared from 3,4,5-trimethoxy-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 17% of theory, Melting point: 70°-73° C. (decomp.)

reactant | 3,4,5-trimethoxy-cinnamyl chloride | COC=1C=C(C=CCCl)C=C(C1OC)OC | C12H15ClO3
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(3,4,5-trimethoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine-hydrate | Yield: 17% | O.NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C19H25N3O3S.H2O/c1-23-15-11-13(12-16(24-2)18(15)25-3)5-4-8-22-9-6-14-17(7-10-22)26-19(20)21-14;/h4-5,11-12H,6-10H2,1-3H3,(H2,20,21);1H2
